US08133909B2
4-Methyl-6-[2-(5-trifluoromethyl-pyridin-2-yl)-ethylamino]-4H-benzo[1,4]oxazin-3-one
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound 4-methyl-6-[2-(5-trifluoromethyl-pyridin-2-yl)-ethylamino]-4H-benzo[1,4]oxazin-3-one (MS m/e: 352.2 [M+H]+) was prepared from 6-bromo-4-methyl-4H-benzo[1,4]oxazin-3-one instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 6-bromo-4-methyl-4H-benzo[1,4]oxazin-3-one | BrC=1C=CC2=C(N(C(CO2)=O)C)C1 | C9H8BrNO2
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | 4-methyl-6-[2-(5-trifluoromethyl-pyridin-2-yl)-ethylamino]-4H-benzo[1,4]oxazin-3-one | CN1C(COC2=C1C=C(C=C2)NCCC2=NC=C(C=C2)C(F)(F)F)=O | C17H16F3N3O2
